US07208490B2
2,3,4,4a-Tetrahydro-1′,3,3′-trimethylspiro[1H-pyrazino[1,2-a]quinoline-5(6H),5′(2′H)-pyrimidine]-2′4′,6′(1′H,3′H)-trione
In a manner similar to that described in Example 1, except starting with 2-fluorobenzaldehyde, 1-methylpiperazine and 1,3-dimethylbarbituric acid, 190 mg (55%) of the title compound is obtained. 1H NMR (400 MHz, CDCl3) δ 7.19, 7.04, 6.95, 6.80, 3.98, 3.62, 3.55, 3.39, 3.32, 3.10, 3.04, 2.82, 2.57, 2.23, 2.21, 1.86.

reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 1,3-dimethylbarbituric acid | CN1C(=O)N(C(=O)CC1=O)C | C6H8N2O3
product | 2,3,4,4a-Tetrahydro-1′,3,3′-trimethylspiro[1H-pyrazino[1,2-a]quinoline-5(6H),5′(2′H)-pyrimidine]-2′4′,6′(1′H,3′H)-trione | 190 mg, 55% | CN1C(N(C(C2(C1=O)C1N(C3=CC=CC=C3C2)CCN(C1)C)=O)C)=O | C18H22N4O3
